US07019011B2
Pyrrolidine-1-carboxylic acid (6,7-difluoro-5-phenyl-1H-indazol-3-yl)amide
75 mg of pyrrolidine-1-carboxylic acid (6,7-difluoro-5-phenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)amide in 3 ml of methanol are treated with 0.82 ml of 2N HCl for 1 hour at reflux. After evaporation and purification by preparative LC/MS (acetonitrile/pH 9 buffer), 36 mg of pyrrolidine-1-carboxylic acid (6,7-difluoro-5-phenyl-1H-indazol-3-yl)amide are obtained.

reactant | pyrrolidine-1-carboxylic acid (6,7-difluoro-5-phenyl-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)amide | 75 mg | FC1=C(C=C2C(=NN(C2=C1F)COCC[Si](C)(C)C)NC(=O)N1CCCC1)C1=CC=CC=C1 | C24H30F2N4O2Si
reactant | HCl | 2N, 0.82 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | Pyrrolidine-1-carboxylic acid (6,7-difluoro-5-phenyl-1H-indazol-3-yl)amide | FC1=C(C=C2C(=NNC2=C1F)NC(=O)N1CCCC1)C1=CC=CC=C1 | C18H16F2N4O
